### PR TITLE
feat(MeasureTheory/Integral/Bochner/ContinuousLinearMap): add starRingEnd_div_mul_eq_norm, enorm_integral_mul_starRingEnd_comm

### PR DESCRIPTION
**Pull request by lakesare**
From the Carleson project.

-------

**Upstreaming from Carleson: [/Carleson/ToMathlib/MeasureTheory/Integral/Bochner/ContinuousLinearMap.lean](https://github.com/fpvandoorn/carleson/blob/0072b6e47ec58ac13be0a9f3b7c17e9f3bb1be2e/Carleson/ToMathlib/MeasureTheory/Integral/Bochner/ContinuousLinearMap.lean)**

#### starRingEnd_div_mul_eq_norm

Refactored the body, and generalized a bit (by going from `f x` to `z`).

```lean
-- CARLESON
starRingEnd_div_mul_eq_norm.{u_1, u_2} {α : Type u_1} {𝕜 : Type u_2} [RCLike 𝕜] {f : α → 𝕜} (x : α)
: (starRingEnd 𝕜) (f x / ↑‖f x‖) * f x = ↑‖f x‖
-- MATHLIB
starRingEnd_div_mul_eq_norm.{u_6} {𝕜 : Type u_6} [RCLike 𝕜] (z : 𝕜)
: (starRingEnd 𝕜) (z / ↑‖z‖) * z = ↑‖z‖
```

#### enorm_integral_mul_starRingEnd_comm

Refactored the body

```lean
-- CARLESON
enorm_integral_mul_starRingEnd_comm.{u_1, u_2} {α : Type u_2} [MeasurableSpace α] {μ : Measure α}
{𝕜 : Type u_1} [RCLike 𝕜] {f g : α → 𝕜}
: ‖∫ (x : α), f x * (starRingEnd 𝕜) (g x) ∂μ‖ₑ = ‖∫ (x : α), g x * (starRingEnd 𝕜) (f x) ∂μ‖ₑ

-- MATHLIB
enorm_integral_mul_starRingEnd_comm.{u_1, u_6} {X : Type u_1} [MeasurableSpace X] {μ : Measure X}
{𝕜 : Type u_6} [RCLike 𝕜] {f g : X → 𝕜}
: ‖∫ (x : X), f x * (starRingEnd 𝕜) (g x) ∂μ‖ₑ = ‖∫ (x : X), g x * (starRingEnd 𝕜) (f x) ∂μ‖ₑ
```

___

PS. other lemmas are not upstreamed in this PR, because they should go to other files

### CODE REVIEW

**Comment by lakesare** [comment]
carleson

**Comment by lakesare** [comment]
easy

File: Mathlib/MeasureTheory/Integral/Bochner/ContinuousLinearMap.lean [hunk 1]
```diff
@@ -192,6 +192,14 @@ theorem setIntegral_re_add_im {f : X → 𝕜} {i : Set X} (hf : IntegrableOn f
       ∫ x in i, f x ∂μ :=
   integral_re_add_im hf
 
+theorem starRingEnd_div_mul_eq_norm (z : 𝕜) : starRingEnd 𝕜 (z / ‖z‖) * z = ‖z‖ := by
+  simp [div_mul_eq_mul_div, RCLike.conj_mul, sq]
```
Comment (jjdishere) [inline Mathlib/MeasureTheory/Integral/Bochner/ContinuousLinearMap.lean:196]: Can you move this lemma to a suitable earlier file?
#find_home suggests `Mathlib.Analysis.RCLike.Basic`.

File: Mathlib/MeasureTheory/Integral/Bochner/ContinuousLinearMap.lean [hunk 2]
```diff
@@ -192,6 +192,14 @@ theorem setIntegral_re_add_im {f : X → 𝕜} {i : Set X} (hf : IntegrableOn f
...
+
+theorem enorm_integral_mul_starRingEnd_comm {f g : X → 𝕜} :
+    ‖∫ x, f x * starRingEnd 𝕜 (g x) ∂μ‖ₑ = ‖∫ x, g x * starRingEnd 𝕜 (f x) ∂μ‖ₑ := by
+  rw [← RCLike.enorm_conj, ← integral_conj]
+  simp_rw [map_mul, RCLike.conj_conj, mul_comm]
```
Comment (jjdishere) [inline Mathlib/MeasureTheory/Integral/Bochner/ContinuousLinearMap.lean:201]:
```suggestion
  rw [← RCLike.enorm_conj, ← integral_conj]
  simp [mul_comm]
```

File: Mathlib/MeasureTheory/Integral/Bochner/ContinuousLinearMap.lean (hunk 1 above)
Comment (lakesare) [reply Mathlib/MeasureTheory/Integral/Bochner/ContinuousLinearMap.lean]: Thanks, didn't know about `#find_home`.

**Comment by lakesare** [comment]
-awaiting-author

**Comment by lakesare** [comment]
After Jiedong's pr review, on top of the suggested changes:
- for both `starRingEnd_div_mul_eq_norm` and `enorm_integral_mul_starRingEnd_comm`, switched `starRingEnd` to `conj` (used much more frequently across mathlib)
